US08445693B2
A solution of lithium formate (262 mg, 3 eq), diisopropylethylamine (DIEA; 0.58 mL, 2 eq), acetic anhydride (0.32 mL, 2 eq) in anhydrous dimethylformamide (DMF; 2 mL) was stirred at room temperature for 1 hour. Then, 3′-(2′-iodo-biphenyl-4-ylmethyl)-1,7′-dimethyl-2′-propyl-1H,3′H-[2,5′]bibenzoimidazolyl (1 g, 1.68 mmol), Pd2(dba)3 (38 mg, 0.025 eq, dba is dibenzylideneacetone), LiCl (211 mg, 3 eq) in anhydrous DMF (4 mL) were added. The reaction mixture was stirred at 80° C. for 3 h, filtered and after cooling poured into 1.2 mL of water, stirred for 15 minutes, product filtered, washed with water and dried in vacuo to yield telmisartan.

reactant | lithium formate | 262 mg, 3 eq | C(=O)[O-].[Li+]
reactant | diisopropylethylamine | 0.58 mL, 2 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetic anhydride | 0.32 mL, 2 eq | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3′-(2′-iodo-biphenyl-4-ylmethyl)-1,7′-dimethyl-2′-propyl-1H,3′H-[2,5′]bibenzoimidazolyl | 1.68 mmol, 1 g | IC1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC2=C1C=C(C=C2C)C2=NC1=C(N2C)C=CC=C1)CCC | C32H29IN4
reactant | LiCl | 211 mg, 3 eq | [Li+].[Cl-]
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | DMF | 4 mL | CN(C=O)C | C3H7NO
catalyst | Pd2(dba)3 | 38 mg, 0.025 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | telmisartan | CCCC1=NC=2C(=CC(=CC2N1CC=3C=CC(=CC3)C=4C=CC=CC4C(=O)O)C5=NC=6C=CC=CC6N5C)C | C33H30N4O2
